US07935712B2
6′-tert-Butyl-1-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[piperidine-4,2′-pyrano[2,3-c]pyridin]-4′(3′H)-one
The compound was prepared according to the procedure described in Example 1, using 6′-tert-butylspiro[piperidine-4,2′-pyrano[2,3-c]pyridin]-4′(3′H)-one instead of N-(4-oxospiro[chroman-2,4′-piperidin]-6-yl)acetamide and using 4,8-dimethoxyquinoline-2-carboxylic acid in place of 4-methoxyquinoline-2-carboxylic acid. 1H-NMR (400 MHz, CDCl3) δ: 8.49 (1H, d, J=1.0 Hz), 7.77 (1H, dd, J=8.0, 1.1 Hz), 7.64 (1H, d, J=1.0 Hz), 7.47 (1H, t, J=8.0 Hz), 7.19 (1H, s), 7.08 (1H, dd, J=8.0, 1.1 Hz), 4.65-4.57 (1H, m), 4.23-4.15 (1H, m), 4.08 (3H, s), 4.03 (3H, s), 3.66-3.33 (2H, m), 2.90-2.76 (2H, m), 2.24-1.83 (4H, m), 1.36 (9H, s). MS (M+H)+=490.

reactant | 6′-tert-butylspiro[piperidine-4,2′-pyrano[2,3-c]pyridin]-4′(3′H)-one | C(C)(C)(C)C=1C=C2C(=CN1)OC1(CC2=O)CCNCC1 | C16H22N2O2
reactant | 4,8-dimethoxyquinoline-2-carboxylic acid | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)O | C12H11NO4
product | 6′-tert-Butyl-1-[(4,8-dimethoxyquinolin-2-yl)carbonyl]spiro[piperidine-4,2′-pyrano[2,3-c]pyridin]-4′(3′H)-one | C(C)(C)(C)C=1C=C2C(=CN1)OC1(CC2=O)CCN(CC1)C(=O)C1=NC2=C(C=CC=C2C(=C1)OC)OC | C28H31N3O5
